US07211668B2
N-{2-[5-(4-Chloro-2-nitrophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-N-{[2-N-(piperonyloxycarbonyl)-guanin-9-yl]-acetyl}-glycine ethyl ester
The title compound was synthesized by the reaction of N-{2-[5-(4-chloro-2-nitrophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-glycine ethyl ester with N-{[2-N-(piperonyloxycarbonyl)-guanin-9-yl]-acetic acid as per the procedure of example 13. 1H NMR (400 MHz; DMSO-d6) δ 11.37 (brs, 0.4H), 11.35 (brs, 0.6H), 9.20 (brs, 1H), 8.39 (s, 1H), 8.03–7.99 (m, 1H), 7.95 (d, 0.6H), 7.92 (d, 0.4H), 7.82 (s, 0.6H), 7.79 (s, 0.4H), 7.01 (s, 1H), 6.94 (d, 1H), 6.91 (d, 1H), 6.02 (s, 2H), 5.14 (s, 3.2H), 4.93 (s, 0.8H), 4.45 (s, 0.8H), 4.21 (q, 0.8H), 4.08 (s, 1.2H), 4.07 (q, 1.2H), 3.65 (t, 1.2H), 3.48 (t, 1.2H), 3.43 (t, 0.8H), 3.27 (t, 0.8H), 1.25 (t, 1.2H), 1.16 (t, 1.8H).

reactant | N-{2-[5-(4-chloro-2-nitrophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-glycine ethyl ester | C(C)OC(CNCCNS(=O)(=O)C=1SC(=NN1)C1=C(C=C(C=C1)Cl)[N+](=O)[O-])=O | C14H16ClN5O6S2
reactant | [2-N-(piperonyloxycarbonyl)-guanin-9-yl]-acetic acid | C(C1=CC=2OCOC2C=C1)OC(=O)NC=1NC(C=2N=CN(C2N1)CC(=O)O)=O | C16H13N5O7
product | N-{2-[5-(4-Chloro-2-nitrophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-N-{[2-N-(piperonyloxycarbonyl)-guanin-9-yl]-acetyl}-glycine ethyl ester | C(C)OC(CN(C(CN1C=2N=C(NC(C2N=C1)=O)NC(=O)OCC1=CC=2OCOC2C=C1)=O)CCNS(=O)(=O)C=1SC(=NN1)C1=C(C=C(C=C1)Cl)[N+](=O)[O-])=O | C30H27ClN10O12S2
